US07166597B2
3-(2,6-Difluoro-4-pyridinyl)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine
A solution of 3-bromo-2-(4-fluorophenyl)-pyrazolo[1,5-a]pyridine (from Example le, 570 mg, 1.96 mmol), 2,6-difluoro-4-pyridyl-boronic acid (340 mg, 2.15 mmol) and dichlorobis(triphenylphosphine)palladium (137 mg, 0.196 mmol) in DMF (10.0 mL) was placed in a pre-heated oil bath at 110° C. To the reaction was added, in a dropwise manner, 2M sodium carbonate (2.00 mL, 4.00 mmol). The reaction was allowed to stir for 45 min before cooling to room temperature and filtering through a Celite 545 pad. The Celite filter was washed with ethyl acetate and the filtrate was concentrated to dryness at 50° C. under vacuum. The residue was dissolved in methylene chloride and dried (MgSO4). The drying agent was removed by filtration and the filtrate was concentrated and purified by silica gel chromatography to yield the title compound (160 mg, 0.492 mmol, 25%). 1H NMR (CDCl3) δ 8.53(d, 1H, J=6.8 Hz), 7.67(d, 1H, J=8.8 Hz), 7.53(dd, 2H, J=5.6, 8.0 Hz), 7.31(t, 1H, J=7.6 Hz), 7.11(t, 2H, J=8.4 Hz), 6.93(t, 1H, J=6.8 Hz), 6.75(s, 2H). MS (ES+ve): 326 (90, M+).

reactant | 3-bromo-2-(4-fluorophenyl)-pyrazolo[1,5-a]pyridine | 1.96 mmol, 570 mg | BrC=1C(=NN2C1C=CC=C2)C2=CC=C(C=C2)F | C13H8BrFN2
reactant | 2,6-difluoro-4-pyridyl-boronic acid | 2.15 mmol, 340 mg | FC1=NC(=CC(=C1)B(O)O)F | C5H4BF2NO2
reactant | sodium carbonate | 4.00 mmol, 2M, 2.00 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium | 0.196 mmol, 137 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(2,6-Difluoro-4-pyridinyl)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine | 0.492 mmol, 160 mg, 25% | FC1=NC(=CC(=C1)C=1C(=NN2C1C=CC=C2)C2=CC=C(C=C2)F)F | C18H10F3N3
